US07238696B2
Preparation of 3-(Phenylsulfonyl)-4-piperazin-1-yl-1H-indazole Hydrochloride
A solution of 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-3-(phenylsulfonyl)-1H-indazole (0.022 g, 0.050 mmol) in methanol is treated with a 2 M solution of HCl in ether (0.4 mL), heated at reflux temperature for 1 h, cooled to room temperature and evaporated to dryness. The residue is re-dissolved in methanol and concentrated. Repeating this procedure three more times affords the title product as a white solid, 0.009 g (40% yield), identified by NMR and mass spectral analyses.

reactant | 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-3-(phenylsulfonyl)-1H-indazole | 0.050 mmol, 0.022 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C22H26N4O4S
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ether | 0.4 mL | CCOCC | C4H10O
product | 3-(Phenylsulfonyl)-4-piperazin-1-yl-1H-indazole Hydrochloride | 40% yield | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=CC(=C12)N1CCNCC1 | InChI=1S/C17H18N4O2S.ClH/c22-24(23,13-5-2-1-3-6-13)17-16-14(19-20-17)7-4-8-15(16)21-11-9-18-10-12-21;/h1-8,18H,9-12H2,(H,19,20);1H
